US05045563
Preparation of 5,5"-Dicyano-2,2':5',2"-Terthienyl
α-Terthienyl (2.46 g, 0.01 m) was treated with two equivalents of chlorosulfonyl isocyanate (0.02 m) in methylene chloride as described in the preparation of 5-cyano-2,2':5',2"-terthienyl. Work-up as in that procedure gave crude product (2.4 g), m.p. 165°-170° C., contracting around 140° C. m/z 298(m+);

reactant | α-Terthienyl | 2.46 g | C=1C=C(SC1)C2=CC=C(S2)C3=CC=CS3 | C12H8S3
reactant | chlorosulfonyl isocyanate | two equivalents | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 5-cyano-2,2':5',2"-terthienyl | C(#N)C1=CC=C(S1)C=1SC(=CC1)C=1SC=CC1 | C13H7NS3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,5"-Dicyano-2,2':5',2"-Terthienyl | 2.4 g | C(#N)C1=CC=C(S1)C=1SC(=CC1)C=1SC(=CC1)C#N | C14H6N2S3
